US09428457B2
(2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-(2-oxobutyrylamino)pentanoic Acid
(2R,4R)-4-Amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid ethyl ester (50 mg, 144 μmol) was added to a solution of 2-oxo-butyric acid (1.2 eq., 165 μmol) and HATU (71.1 mg, 187 μmol) in DMF (250 μL), followed by the addition of DIPEA (75 μL, 431 μmol). The resulting mixture was stirred at room temperature for 1 hour. 10 M aqueous LiOH (115 μL, 1.2 mmol) was added and the mixture was stirred for an additional 1 hour. The mixture was washed with DCM (1 mL) and the aqueous layer was acidified with concentrated HCl (250 μL) and extracted with DCM (2×1 mL). The DCM extracts were combined and concentrated in vacuo, and the resulting crude liquid was purified by reverse phase preparative HPLC to yield the title compound (2.9 mg). MS m/z [M+H]+ calc'd for C21H22ClNO5, 404.12. found 404.2.

reactant | (2R,4R)-4-Amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid ethyl ester | 144 μmol, 50 mg | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)N)O)=O | C19H22ClNO3
reactant | 2-oxo-butyric acid | 165 μmol, 1.2 eq. | O=C(C(=O)O)CC | C4H6O3
reactant | HATU | 187 μmol, 71.1 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 431 μmol, 75 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | LiOH | 1.2 mmol, 10 M, 115 μL | [Li+].[OH-]
solvent | DMF | 250 μL | CN(C)C=O | C3H7NO
product | (2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-(2-oxobutyrylamino)pentanoic Acid | 2.9 mg | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@H](C[C@H](C(=O)O)O)NC(C(CC)=O)=O | C21H22ClNO5
